US04061761
3-Ethyl-2-ethylimino-4-(4-chloro-3-dimethylsulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrobromide
6.8 g of 2-bromo-4'-chloro-3'-dimethylsulfamoylacetophenone and 2.7 g of 1,3-diethylthiourea were reacted as prescribed in Example 23. The solvent was decanted and the oily precipitate of the end product was crystallized under fresh acetone. Colorless solid body, decomposition beginning at 154° C, γ C=N 1610 cm-1.

reactant | 2-bromo-4'-chloro-3'-dimethylsulfamoylacetophenone | 6.8 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O | C10H11BrClNO3S
reactant | 1,3-diethylthiourea | 2.7 g | C(C)NC(=S)NCC | C5H12N2S
product | 3-Ethyl-2-ethylimino-4-(4-chloro-3-dimethylsulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrobromide | Br.C(C)N1C(SCC1(O)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O)=NCC | InChI=1S/C15H22ClN3O3S2.BrH/c1-5-17-14-19(6-2)15(20,10-23-14)11-7-8-12(16)13(9-11)24(21,22)18(3)4;/h7-9,20H,5-6,10H2,1-4H3;1H
